US05840745
5-carbomethoxy-3-(quinol-4-ylmethylene)-2-oxindole
A solution of 5-carboxy-3-(quinol-4-ylmethylene)-2-oxindole (3.163 g, 10 mmol), methanol (3.2 g, 100 mmol) and H2SO4 95% (1 g) in benzene (100 ml) was heated in a Soxhlet apparatus for 10 h. To dry the distillate continuously, the cap of the Soxhlet contained anhydrous MgSO4. After cooling, water was added, the organic phase repeatedly washed with water and then evaporated under vacuum. Thus almost pure title compound was obtained in about 90% yield.

reactant | 5-carboxy-3-(quinol-4-ylmethylene)-2-oxindole | 10 mmol, 3.163 g | C(=O)(O)C=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C19H12N2O3
reactant | methanol | 100 mmol, 3.2 g | CO | CH4O
reactant | H2SO4 | 1 g | OS(=O)(=O)O | H2O4S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 5-carbomethoxy-3-(quinol-4-ylmethylene)-2-oxindole | about 90% yield | C(=O)(OC)C=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C20H14N2O3
